US04970115
(b) Preparation of bis(2-acetoxyethyl)dibutyltin:
2.349 g (0.01 mole) of dibutyltin dihydride, 1.722 g (0.02 mole) of distilled vinyl acetate and 2 g of anhydrous cyclohexane were introduced into a Pyrex® vessel thermostated at 25° C. The solution was exposed to ultraviolet rays for 3 hours. The cyclohexane was then removed under vacuum at ambient temperature. The expected product was obtained pure in quantitative yield.

reactant | dibutyltin dihydride | 0.01 mole, 2.349 g | C(CCC)[SnH2]CCCC
reactant | vinyl acetate | 0.02 mole, 1.722 g | C(C)(=O)OC=C | C4H6O2
solvent | cyclohexane | 2 g | C1CCCCC1 | C6H12
product | bis(2-acetoxyethyl)dibutyltin | quantitative yield | C(C)(=O)OCC[Sn](CCCC)(CCCC)CCOC(C)=O | InChI=1S/2C4H7O2.2C4H9.Sn/c2*1-3-6-4(2)5;2*1-3-4-2;/h2*1,3H2,2H3;2*1,3-4H2,2H3;
